US08202865B2
Step 5: methyl 4-cyano-2-fluoro-5-methoxybenzoate
4-Cyano-2-fluoro-5-methoxybenzoic acid (75 mg; 0.38 mmol; 1 eq.) was dissolved in MeOH (1 mL). The solution was cooled down to 0° C. SOCl2 (0.11 mL; 1.54 mmol; 4 eq.) was added dropwise. After addition, the reaction mixture was stirred at RT overnight. As the reaction was complete, solvents were evaporated. The crude mixture was dissolved in EtOAc and washed with NaHCO3 sat and brine. The organic phase was dried over MgSO4, filtrated and evaporated, affording the title product as an orange solid (64 mg; 80%). HPLC (Method A) Rt 3.68 min (Purity: 94.5%).

reactant | 4-Cyano-2-fluoro-5-methoxybenzoic acid | 0.38 mmol, 75 mg, 1 eq. | C(#N)C1=CC(=C(C(=O)O)C=C1OC)F | C9H6FNO3
reactant | SOCl2 | 1.54 mmol, 0.11 mL, 4 eq. | O=S(Cl)Cl | Cl2OS
reactant | MeOH | 1 mL | CO | CH4O
product | methyl 4-cyano-2-fluoro-5-methoxybenzoate | 64 mg, 80% | C(#N)C1=CC(=C(C(=O)OC)C=C1OC)F | C10H8FNO3
